US06150373
A solution of 4 g (13.8 mmol) of 5-formyl-4-[3-(2-hydroxyethyl)phenyl]amino-2-methylthiopyrimidine in 80 ml of toluene was treated with 2.4 g (15 mmol) of 2,6-dichloroaniline and 0.25 g (1.3 mmol) of 4-toluenesulfonic acid monohydrate and the mixture was heated under reflux with azeotropic removal of water for 18 hours and then cooled. The mixture was evaporated and the residue was dissolved in 40 ml of tetrahydrofuran and added dropwise to a solution of 0.6 g (16 mmol) of lithium aluminium hydride in 40 ml of tetrahydrofuran. After 1 hour the reaction was quenched by the cautious dropwise addition of 0.6 ml of water, 0.6 ml of 2M aqueous sodium hydroxide and 1.8 ml of water. The resulting suspension was filtered through a filter aid and the filtrate was evaporated. The residue was subjected to column chromatography on silica using dichloromethane/methanol for the elution in a gradient from a ratio of 50:1 to a ratio of 10:1. Product-containing fractions from the first product to be eluted from the column were combined and evaporated to give 1 g (17%) of 5-(2,6-dichloroanilino)methyl-4-[3-(2-hydroxyethyl)phenyl]amino-2-methylthiopyrimidine as a white solid. Mass spectrum (ESI) MH+ =435. Product-containing fractions from the second product to be eluted from the column were combined and evaporated to give 1.8 g (45%) of 5-hydroxymethyl-4-[3-(2-hydroxyethyl)phenyl]amino-2-methylthiopyrimidine as a white solid. [Mass spectrum (ESI) MH+ =292].

reactant | 5-formyl-4-[3-(2-hydroxyethyl)phenyl]amino-2-methylthiopyrimidine | 13.8 mmol, 4 g | C(=O)C=1C(=NC(=NC1)SC)NC1=CC(=CC=C1)CCO | C14H15N3O2S
reactant | 2,6-dichloroaniline | 15 mmol, 2.4 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | 4-toluenesulfonic acid monohydrate | 1.3 mmol, 0.25 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | lithium aluminium hydride | 16 mmol, 0.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-(2,6-dichloroanilino)methyl-4-[3-(2-hydroxyethyl)phenyl]amino-2-methylthiopyrimidine | 1 g, 17% | ClC1=C(NCC=2C(=NC(=NC2)SC)NC2=CC(=CC=C2)CCO)C(=CC=C1)Cl | C20H20Cl2N4OS
